US06005119
The procedure of Example 1 was followed except that the autoclave was charged with 3.9 g of 79% pure (S)-1-benzyl-3-(1-cyano-1,1-diphenylmethyl)-pyrrolidine, 3.1 ml of ethanol, 786 mg of oxalic acid and 158 mg of moist 5% palladium-carbon (water content 52% by weight) and that hydrogen was introduced thereinto and the autoclave was heated to thereby raise the temperature to 60° C. and the pressure to 203 kPa and the reaction was allowed to proceed for 3.5 hours. (S)-3-(1-Cyano-1,1-diphenylmethyl)-pyrrolidine was obtained in a yield of 70 mole percent.

reactant | (S)-1-benzyl-3-(1-cyano-1,1-diphenylmethyl)-pyrrolidine | 3.9 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C#N | C25H24N2
reactant | oxalic acid | 786 mg | C(C(=O)O)(=O)O | C2H2O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | [C].[Pd]
solvent | ethanol | 3.1 ml | C(C)O | C2H6O
product | (S)-3-(1-Cyano-1,1-diphenylmethyl)-pyrrolidine | C(#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@H]1CNCC1 | C18H18N2
